US04812470
3-Acetylthiophene (6.3 g, 50 mmol) was dissolved in anhydrous ether (100 ml) and aluminium chloride (catalytic amount) added. Bromine (2.55 ml, 50 mmol) was added dropwise and then stirred for 10 min. The ether was removed under reduced pressure and the residue washed with water. The crude product was recrystallised from petroleum-ether (60°-80° C.) to yield 3-bromoacetylthiophene m.p. 54°-56° C. (8.76 g, 85%), δH (CDCl3) 8.15 (1H, dd, H2), 7.55 (1H, dd, H4'), 7.35 (1H, dd, H5').

reactant | 3-Acetylthiophene | 50 mmol, 6.3 g | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Bromine | 50 mmol, 2.55 ml | BrBr | Br2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-bromoacetylthiophene | 8.76 g, 85% | BrCC(=O)C1=CSC=C1 | C6H5BrOS
